US09290496B2
Step 1: Preparation of 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin -6-amine
A suspension of 6-chloro-2-fluoro-9H-purine (5.49 g, 31.8 mmol, 1.00 eq), 3-methoxy-1-methyl-1H-pyrazol-4-amine hydrochloride (6.60 g, 40.34 mmol, 1.26 eq), and N,N-diisopropylethylamine (16.6 mL, 95.5 mmol, 3.00 eq) in DMSO (31.8 mL) was stirred at ambient temperature for 19 hr. The reaction mixture was then concentrated in vacuo at 50° C., poured into water (250 mL), and stirred vigorously at 0° C. for 1 hr. The resulting solids were filtered off, washed with ice cold water (20 mL), and dried for 16 hr at 50° C. to give the title compound (7.26 g, 87% yield, 96% purity) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.03 (br. s., 1 H) 9.21 (br. s., 1 H) 8.18 (br. s., 1 H) 7.74 (br. s., 1 H) 3.81 (br. s., 3 H) 3.71 (s, 3H). m/z (APCI+) for C10H11FN7O 264.2 (M+H)+.

reactant | 6-chloro-2-fluoro-9H-purine | 31.8 mmol, 5.49 g, 1.00 eq | ClC1=C2N=CNC2=NC(=N1)F | C5H2ClFN4
reactant | 3-methoxy-1-methyl-1H-pyrazol-4-amine hydrochloride | 40.34 mmol, 6.60 g, 1.26 eq | Cl.COC1=NN(C=C1N)C
reactant | N,N-diisopropylethylamine | 95.5 mmol, 16.6 mL, 3.00 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMSO | 31.8 mL | CS(=O)C | C2H6OS
product | 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin -6-amine | 7.26 g, 87% yield | FC1=NC(=C2N=CNC2=N1)NC=1C(=NN(C1)C)OC | C10H10FN7O
